US06933311B2
2-(5-isoquinolinyl)-N-[4-(trifluoromethoxy)benzyl]acetamide
Polymer supported 1,3-dicyclohexylcarbodiimide (0.845 g) in dichloromethane (5 mL) was treated with 5-isoquinolinylacetic acid (0.075 g, 0.40 mmol) in dichloromethane (1 mL), 1-hydroxy-7-azabenzotriazole (0.049 g), and triethylamine (0.080 g) in dichloromethane (1 mL). After stirring for 5 minutes, the mixture was treated with 4-(trifluoromethoxy)benzylamine (0.40 mmol). After stirring for 16 hours, the mixture was treated with MP-Carbonate resin (0.310 g), stirred for 5 minutes, and filtered. The filtrate was diluted with dichloromethane (40 mL), washed with water (4×20 mL), brine (1×20 mL), dried (Na5SO4), filtered, and the filtrate was concentrated under reduced pressure to provide the title compound which was purified by forming the hydrochloride salt and triturating the solid with hot ethyl acetate. MS (ESI+) m/z 361 (M+H)+; MS (ESI−) m/z 359 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 3.99 (s, 2H), 4.31 (d, J 5.7, 2H), 7.31 (d, J 8.8, 2H), 7.36 (d, J 6.4, 2H), 7.66 (m, 2H), 7.93 (d, J 6.1, 1H), 8.03 (d, J 8.2, 1H), 8.51 (d, J 6.1, 1H), 8.74 (t, J 6.1, 1H), 9.31 (s, 1H); Anal. Calcd for C19H15F3N2O2+1 HCl: C, 57.51; H, 4.06; N, 7.06. Found: C, 57.42; H, 3.98; N, 6.72.

reactant | 1,3-dicyclohexylcarbodiimide | 0.845 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-isoquinolinylacetic acid | 0.40 mmol, 0.075 g | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
reactant | 1-hydroxy-7-azabenzotriazole | 0.049 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 4-(trifluoromethoxy)benzylamine | 0.40 mmol | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | MP-Carbonate resin | 0.310 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.080 g | C(C)N(CC)CC | C6H15N
product | 2-(5-isoquinolinyl)-N-[4-(trifluoromethoxy)benzyl]acetamide | C1=NC=CC2=C(C=CC=C12)CC(=O)NCC1=CC=C(C=C1)OC(F)(F)F | C19H15F3N2O2
